US06248754B1
N-(8-chloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-3-bromo-4-ethoxybenzamide
A solution of N-(8-Chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-3-bromo-4-ethoxybenzamide (0.12 g) in 37% aqueous formaldehyde (0.63 ml) and formic acid (0.34 ml) and stirred at 80° C. for 3 h. Solid sodium hydroxide was added to neutralise the solution and the aqueous phase extracted with dichloromethane. The combined organic extracts were dried (MgSO4) and solvent removed in vacuo to give the title compound (0.11 g).

reactant | N-(8-Chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-3-bromo-4-ethoxybenzamide | 0.12 g | ClC=1C(=CC=C2CCNCC12)NC(C1=CC(=C(C=C1)OCC)Br)=O | C18H18BrClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formaldehyde | 0.63 ml | C=O | CH2O
solvent | formic acid | 0.34 ml | C(=O)O | CH2O2
product | N-(8-chloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-3-bromo-4-ethoxybenzamide | 0.11 g | ClC=1C(=CC=C2CCN(CC12)C)NC(C1=CC(=C(C=C1)OCC)Br)=O | C19H20BrClN2O2
